US07396847B2
N-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide
[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methylamine (2.1 g, 8 mmol) and triethylamine (1.7 ml, 12 mmol) were added to anhydrous dichloromethane (50 ml) and cooled to 0° C. Acetyl chloride (0.670 ml, 9.6 mmol) was then added dropwise and the reaction was stirred for 3 hours followed by addition of ethyl acetate (100 ml). The precipitate was collected and washed with water (2×25 ml) to give the desired product (1.2 g).

reactant | [3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methylamine | 8 mmol, 2.1 g | BrC1=CC=C(S1)C1=NOC(C1)NC | C8H9BrN2OS
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | Acetyl chloride | 9.6 mmol, 0.670 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl]-acetamide | 1.2 g | BrC1=CC=C(S1)C1=NOC(C1)CNC(C)=O | C10H11BrN2O2S
